US04358593
3-[4-(2-diisopropylaminoethoxy)benzoyl]-6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene, hydrochloride
A 7.6 g. portion of 4-(2-diisopropylaminoethoxy)benzoic acid, hydrochloride, was converted to the acid chloride as described in Example 1 above, and was used to acylate 5 g. of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene in the presence of 20 g. of aluminum chloride. Work up according to Example 4 gave 7.4 g. of crystalline product after trituration of the isolated oil with denatured ethanol. The product was recrystallized from denatured ethanol to obtain 6.5 g. of purified product, and a 1.5 g. portion was further purified by chromatography over silica gel, eluting with 1:3 methanol:chloroform to obtain 1.15 g. of analytical sample, m.p. 198°-201°.

reactant | 4-(2-diisopropylaminoethoxy)benzoic acid, hydrochloride | Cl.C(C)(C)N(CCOC1=CC=C(C(=O)O)C=C1)C(C)C
reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(2-diisopropylaminoethoxy)benzoyl]-6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene, hydrochloride | Cl.C(C)(C)N(CCOC1=CC=C(C(=O)C=2C3=C(SC2C2=CC=C(C=C2)OS(=O)(=O)C)C=C(C=C3)OS(=O)(=O)C)C=C1)C(C)C | InChI=1S/C31H35NO8S3.ClH/c1-20(2)32(21(3)4)17-18-38-24-11-7-22(8-12-24)30(33)29-27-16-15-26(40-43(6,36)37)19-28(27)41-31(29)23-9-13-25(14-10-23)39-42(5,34)35;/h7-16,19-21H,17-18H2,1-6H3;1H
